US09315521B2
To a 0° C. solution of 4-chloroquinoline-3-carbaldehyde (1.2 g, 6.3 mmol) in anhydrous methanol (20 mL) was added sodium borohydride (250 mg, 6.6 mmol). The reaction mixture was stirred at room temperature for 3 hours. Saturated ammonium chloride solution (20 mL) was added. The resultant mixture was extracted with dichloromethane (2×20 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (4-chloroquinolin-3-yl)methanol (1.0 g, 85% yield). The product was used without further purification.

reactant | 4-chloroquinoline-3-carbaldehyde | 6.3 mmol, 1.2 g | ClC1=C(C=NC2=CC=CC=C12)C=O | C10H6ClNO
reactant | sodium borohydride | 6.6 mmol, 250 mg | [BH4-].[Na+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
product | (4-chloroquinolin-3-yl)methanol | 1.0 g, 85% yield | ClC1=C(C=NC2=CC=CC=C12)CO | C10H8ClNO
